US05278316
(±)-Tricyclo[3.3.13,7 ]dec-1-yl [1-(1H-indol-3-ylmethyl)-1-methyl-2-oxo-2-[(2-phenylethyl)-amino]ethyl]carbamate
To a solution of N-[(tricyclo[3.3.1.13,7]dec-1-yloxy)carbonyl]-α-methyl-DL-tryptophan (1.0 g, 2.5 mmol) in 1,4 dioxan (40 mL) was added a solution of pentafluorophenol (0.465 g, 2.5 mmol) in 1,4 dioxan (5 mL) and stirred at room temperature for 15 minutes, cooled to 0° C. and a solution of dicyclohexylcarbodiimide (0.547 g, 2.65 mmol) in 1,4 dioxan (10 mL) was added dropwise. This was allowed to stir at room temperature for two hours before phenethylamin (0.333 g, 2.75 mmol) was added in one portion. The mixture was left stirring for 24 hours.

reactant | N-[(tricyclo[3.3.1.13,7]dec-1-yloxy)carbonyl]-α-methyl-DL-tryptophan | 2.5 mmol, 1.0 g | C12(CC3CC(CC(C1)C3)C2)OC(=O)NC(CC2=CNC3=CC=CC=C23)(C(=O)O)C | C23H28N2O4
reactant | pentafluorophenol | 2.5 mmol, 0.465 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | dicyclohexylcarbodiimide | 2.65 mmol, 0.547 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | phenethylamin | 2.75 mmol, 0.333 g | C(CC1=CC=CC=C1)N | C8H11N
solvent | 1,4 dioxan | 40 mL | O1CCOCC1 | C4H8O2
solvent | 1,4 dioxan | 5 mL | O1CCOCC1 | C4H8O2
solvent | 1,4 dioxan | 10 mL | O1CCOCC1 | C4H8O2
product | dec-1-yl [1-(1H-indol-3-ylmethyl)-1-methyl-2-oxo-2-[(2-phenylethyl)-amino]ethyl]carbamate | N1C=C(C2=CC=CC=C12)CC(C(NCCC1=CC=CC=C1)=O)(C)NC(OCCCCCCCCCC)=O | C31H43N3O3
